US09085583B2
To a solution of 4-hydroxy-2-methoxy-6-methylnicotinonitrile (2.0 g, 12.2 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (880 mg, 36.6 mmol) at 0° C. and the mixture was stirred for 0.5 hour, Ethyl 2-chloro-2,2-difluoroacetate (5.4 g, 39.0 mmol) was added with vigorous stirring, over the course of 20 min. The suspension was warmed to 80° C. overnight under N2. The mixture was quenched into Na2CO3 (200 mL). It was partitioned between water (500 mL) and ethyl acetate (500 mL), the organic layer was dried and concentrated to afford the crude, which was purified by flash column (PE:EA=20:1) to afford 4-(difluoromethoxy)-2-methoxy-6-methylnicotinonitrile (550 mg yellow solid, 22.0% yield).

reactant | 4-hydroxy-2-methoxy-6-methylnicotinonitrile | 12.2 mmol, 2.0 g | OC1=CC(=NC(=C1C#N)OC)C | C8H8N2O2
reactant | sodium hydride | 36.6 mmol, 880 mg | [H-].[Na+]
reactant | Ethyl 2-chloro-2,2-difluoroacetate | 39.0 mmol, 5.4 g | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(difluoromethoxy)-2-methoxy-6-methylnicotinonitrile | 550 mg, 22.0% yield | FC(OC1=CC(=NC(=C1C#N)OC)C)F | C9H8F2N2O2
